US08492582B2
A 2 mol/L aqueous solution of sodium hydroxide (0.21 mL) was added to a solution mixture of the obtained methyl 5-(pyrimidin-2-yl)pyridine-3-carboxylate (30 mg) in dioxane (0.3 mL) and methanol (0.3 mL) at room temperature, followed by stirring at the same temperature for 1 hour and 30 minutes. The solvent was evaporated under reduced pressure, and water and toluene were added to the residue. The aqueous layer was separated and adjusted to a pH of 3.8 with 1 mol/L hydrochloric acid. The solid substance was collected by filtration to obtain 7.0 mg of 5-(pyrimidin-2-yl)pyridine-3-carboxylic acid as a white solid.

reactant | sodium hydroxide | 0.21 mL | [OH-].[Na+]
reactant | methyl 5-(pyrimidin-2-yl)pyridine-3-carboxylate | 30 mg | N1=C(N=CC=C1)C=1C=C(C=NC1)C(=O)OC | C11H9N3O2
solvent | dioxane | 0.3 mL | O1CCOCC1 | C4H8O2
solvent | methanol | 0.3 mL | CO | CH4O
product | 5-(pyrimidin-2-yl)pyridine-3-carboxylic acid | 7.0 mg | N1=C(N=CC=C1)C=1C=C(C=NC1)C(=O)O | C10H7N3O2
